US08071768B2
4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-trifluoromethoxy-phenyl)-amide
A solution of 6,7-dimethoxy-4-piperidin-4-yl-quinazoline (20 mg, 0.0733 mmol), as prepared in Example 1d, in DMF (1 mL) was treated with 1-isocyanato-4-trifluoromethoxy-benzene (22 mg, 0.108 mmol) at RT overnight. The reaction was then partitioned between EtOAc (10 mL) and H2O (10 mL). The organic phase was dried over Na2SO4 and concentrated in vacuo. Purification by prep tlc (1:9 MeOH/DCM) afforded the title compound as a yellow solid (18.2 mg, 52%). 1H NMR (300 MHz, CDCl3) δ 9.08 (s, 1H), 7.39 (m, 3H), 7.16 (m, 2H), 7.00 (m, 1H), 6.52 (br s, NH), 4.30-4.27 (m, 2H), 4.07 (s, 6H), 3.62 (m, 1H), 3.20 (m, 2H), 2.18-2.11 (m, 2H), 2.03-1.99 (m, 2H); LC/MS (ESI) calcd mass 476.2, found 477.3 [M+1]+.

reactant | 6,7-dimethoxy-4-piperidin-4-yl-quinazoline | 0.0733 mmol, 20 mg | COC=1C=C2C(=NC=NC2=CC1OC)C1CCNCC1 | C15H19N3O2
reactant | 1-isocyanato-4-trifluoromethoxy-benzene | 0.108 mmol, 22 mg | N(=C=O)C1=CC=C(C=C1)OC(F)(F)F | C8H4F3NO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-trifluoromethoxy-phenyl)-amide | 18.2 mg, 52% | FC(OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC)(F)F | C23H23F3N4O4
